US04110455
1-keto-6-(o-chlorophenyl)-8-pyrrolidino-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine-5-oxide
15 grams of 1-keto-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine-5-oxide in 50 ml. of pyrrolidine were boiled at reflux with stirring for 1 hour. Then it was poured into 600 ml. of water and neutralized with acetic acid. The precipitated material was shaken with chloroform, the chloroform layer washed with water, dried and evaporated to dryness. The residue was dissolved in methanol, acidified with ethanolic HCl solution and treated with ether up to the beginning of turbidity. The material crystallized out. It was filtered off with suction and washed with methanol-ether, and then recrystallized again from methanol-ether. Yield 4 grams; M.P. 200° C. (hydrochloride).

reactant | 1-keto-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine-5-oxide | 15 grams | O=C1NN=C2N1C1=C(C(=[N+](C2)[O-])C2=C(C=CC=C2)Cl)N=C(C=C1)Cl | C15H9Cl2N5O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-keto-6-(o-chlorophenyl)-8-pyrrolidino-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine-5-oxide | O=C1NN=C2N1C1=C(C(=[N+](C2)[O-])C2=C(C=CC=C2)Cl)N=C(C=C1)N1CCCC1 | C19H17ClN6O2
